US08791119B2
To a suspension of 2.50 g (7.59 mmol) of tert-butyl{2-[2-fluoro-4-cyano-3-phenyl-1H-pyrrol-1-yl]ethyl}carbamate in 5 ml of ethanol are added slowly 25 ml (100 mmol) of aqueous 4N hydrochloric acid solution and 0.25 g (2.8 mmol) of paraformaldehyde. The mixture is heated at 90° C. for a further 2 hours. After cooling, the reaction medium is basified slowly by adding aqueous ammonia and the product is extracted with dichloromethane, the organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure. The black oil obtained is purified by chromatography on a column of silica gel, eluting with a mixture of 2 to 5% methanol in dichloromethane, to give 0.75 g of 6-fluoro-7-phenyl-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carbonitrile in the form of a brown oil after drying.

reactant | tert-butyl{2-[2-fluoro-4-cyano-3-phenyl-1H-pyrrol-1-yl]ethyl}carbamate | 7.59 mmol, 2.50 g | C(C)(C)(C)OC(NCCN1C(=C(C(=C1)C#N)C1=CC=CC=C1)F)=O | C18H20FN3O2
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | paraformaldehyde | 2.8 mmol, 0.25 g | C=O | CH2O
reactant | ammonia | N | H3N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 6-fluoro-7-phenyl-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carbonitrile | 0.75 g | FC1=C(C(=C2N1CCNC2)C#N)C2=CC=CC=C2 | C14H12FN3
